US04954518
There were mixed 3.63 g of 2,3-dihydro-3-methoxy-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran4-one, 3.41 g of 2,3-dichloro-5,6-dicyano-1,4-benzoquinone and 150 ml of dioxane. The mixture was refluxed for 48 hours. The reaction mixture was cooled. The resulting precipitate was removed by filtration. The solvent was removed by distillation under reduced pressure. The residue was purified by a column chromatography (eluant: a 3 : 1 mixture of toluene and ethyl acetate) to obtain 1.91 g (yield: 52.9%) of 3-methoxy-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one [Compound No. 2].

reactant | 2,3-dihydro-3-methoxy-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran4-one | 3.63 g | COC1COC2=C(C1=O)C=C(C(=C2)NS(=O)(=O)C)OC2=CC=CC=C2 | C17H17NO6S
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 3.41 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
product | 3-methoxy-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one | 1.91 g, yield: 52.9% | COC1=COC2=C(C1=O)C=C(C(=C2)NS(=O)(=O)C)OC2=CC=CC=C2 | C17H15NO6S
